US03947445
To 7.4 ml of 88% formic acid (0.17 mole) was added 14.6 g (0.0675 mole) of 2-benzoyl-2,5-diazabicyclo[2.2.2]octane with stirring at 0°C. A 36% aqueous solution of formaldehyde (6.0 ml, 0.078 mole) was added, and, after visible gas evolution had ceased, the mixture was heated at 80°C until renewed gas evolution has stopped (1 hour). After 3 hours at 90°-100°C, volatiles were removed in vacuo. The residue was dissolved in water, made alkaline with 20% aqueous sodium hydroxide, and extracted with chloroform. After drying with sodium sulfate, the extracts yielded 15.6 g (100%) of colorless oily 2-benzoyl- 5-methyl-2,5-diazabicyclo[2.2.2]octane that was homogeneous by thin layer chromatography. It was characterized as the oxalate salt, melting point 167°-169° (dec.).

reactant | formic acid | 0.17 mole, 7.4 ml | C(=O)O | CH2O2
reactant | 2-benzoyl-2,5-diazabicyclo[2.2.2]octane | 0.0675 mole, 14.6 g | C(C1=CC=CC=C1)(=O)N1C2CNC(C1)CC2 | C13H16N2O
reactant | formaldehyde | 0.078 mole, 6.0 ml | C=O | CH2O
product | 2-benzoyl- 5-methyl-2,5-diazabicyclo[2.2.2]octane | 15.6 g, 100% | C(C1=CC=CC=C1)(=O)N1C2CN(C(C1)CC2)C | C14H18N2O
